US08563547B2
(2) 4-(4-(trifluoromethoxy)phenyl)piperidine-1-formic acid tert-butyl ester
4-hydroxy-4-(4-(trifluoromethoxy)phenyl)piperidine-1-formic acid tert-butyl ester (1.85 g, 5 mmol) was dissolved in dry dichloromethane (30 mL), cooled to −20° C., added dropwise triethyl silicane (696 mg, 6 mmol), added slowly until completed, slowly resumed to stir for 15 h at room temperature. After the reaction was finished, added ice water to quench reaction, partitioned, organic phases were washed by saturated saline, followed by sodium sulphate drying, concentration, column chromatography (PE: EA=20:1) to give 0.6 g light yellow gel-like substance, yield: 34%.

reactant | 4-hydroxy-4-(4-(trifluoromethoxy)phenyl)piperidine-1-formic acid tert-butyl ester | 5 mmol, 1.85 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)OC(F)(F)F)O | C17H22F3NO4
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-(4-(trifluoromethoxy)phenyl)piperidine-1-formic acid tert-butyl ester | yield: 34% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)OC(F)(F)F | C17H22F3NO3
